US07547691B2
Phosphorous oxychloride (7.1 mL, 76.7 mmol) is added dropwise to a cooled dry DMF (13.2 mL, 170.4 mmol) at such rate that the temperature does not exceed 5° C. After 30 minutes at this temperature, a solution of 7-methoxybenzo[b]thiophene (7.00 g, 42.6 mmol) in dry DMF (2 mL) is added dropwise. The stirring continues at 5° C. for 30 minutes and at room temperature for 45 minutes. Afterward, the mixture is heated to 117° C. and then at 90° C. for 2 hours, cooled to 0° C., and neutralized with a solution of sodium acetate (62 g) in water (300 mL). The resulting mixture is extracted with diethyl ether (5×150 mL) and the organic layers are washed with cooled water (5×100 mL), saturated aqueous sodium chloride (100 mL), dried (MgSO4) and concentrated. The crude material is purified on slica gel (hexanes/EtOAc 9:1) to give 7-methoxybenzo[b]thiophene-4-carbaldehyde as a yellow solid (5.5 g, 68% yield). To a stirred solution of the intermediate (14.9 g, 77.5 mmol) in acetone (300 mL) is slowly added a solution of potassium permanganate (14.9 g, 94.3 mmol) in water (525 mL) at 0° C. and the mixture is stirred for 75 minutes. Then, isopropanol (100 mL) is added and the mixture is divided in two portions. Each portion is treated with HCl (100 mL, 12%), diluted with water (300 mL) and extracted with EtOAc (3×300 mL). Organic layers are washed with water (300 mL), saturated aqueous sodium chloride (300 mL), dried (MgSO4), and concentrated. Residue is collected and diluted with EtOAc (600 mL) and the suspension is warmed to 70° C. and filtered to give the title compound as a white solid (10.3 g, 63% yield). At room temperature, the filtrate forms a suspension. After filtration, an additional 3.2 g is obtained. ES+(m/z) 207 [M−H].

reactant | Phosphorous oxychloride | 76.7 mmol, 7.1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-methoxybenzo[b]thiophene | 42.6 mmol, 7.00 g | COC1=CC=CC2=C1SC=C2 | C9H8OS
reactant | sodium acetate | 62 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
solvent | DMF | 170.4 mmol, 13.2 mL | CN(C)C=O | C3H7NO
product | 7-methoxybenzo[b]thiophene-4-carbaldehyde | 5.5 g, 68% yield | COC1=CC=C(C2=C1SC=C2)C=O | C10H8O2S
